US09376443B2
6-Bromopyridine-2-methanol
A solution of 6-bromopyridine-2-carbaldehyde (10.00 g, 53.76 mmol) in MeOH (120 mL) was treated with sodium borohydride (2.04 g, 53.76 mmol), stirred for 1 h and partitioned between EtOAc and water. The organic phase was separated and the aqueous re-extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated in vacuo to give the title compound (9.76 g, 97%) as a pale-yellow liquid; LC-MS retention time 1.52 min, (M+H)+ 188 and 190.

reactant | 6-bromopyridine-2-carbaldehyde | 53.76 mmol, 10.00 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | sodium borohydride | 53.76 mmol, 2.04 g | [BH4-].[Na+]
solvent | MeOH | 120 mL | CO | CH4O
product | 6-Bromopyridine-2-methanol | 9.76 g, 97% | BrC1=CC=CC(=N1)CO | C6H6BrNO
